US06949563B2
To a solution of quinolin-4-ylmethanol (0.20 g, 1.26 mmol) dissolved in CH2Cl2 (10 mL), which was cooled to 0° C., was added m-chloroperbenzoic acid (57-86% w/w in H2O, 0.50 mg) in one portion. The reaction was allowed to slowly warm to room temperature while stirring. After 17.5 h, the resulting solid was filtered and washed with CH2Cl2 to yield (1-oxidoquinolin-4-yl)methanol as a white solid. MS (ES+): 176 [MH+].

reactant | quinolin-4-ylmethanol | 1.26 mmol, 0.20 g | N1=CC=C(C2=CC=CC=C12)CO | C10H9NO
reactant | m-chloroperbenzoic acid | 0.50 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (1-oxidoquinolin-4-yl)methanol | [O-][N+]1=CC=C(C2=CC=CC=C12)CO | C10H9NO2
